Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
tramadol
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Admission Labs
----------------
___ 10:50PM BLOOD WBC-8.2 RBC-4.39* Hgb-13.2* Hct-40.1 
MCV-91 MCH-30.1 MCHC-32.9 RDW-12.3 RDWSD-41.1 Plt ___
___ 10:50PM BLOOD Neuts-35.8 ___ Monos-7.4 Eos-8.3* 
Baso-1.0 AbsNeut-2.93 AbsLymp-3.89* AbsMono-0.61 AbsEos-0.68* 
AbsBaso-0.08
___ 10:50PM BLOOD Glucose-90 UreaN-11 Creat-1.0 Na-142 
K-4.5 Cl-106 HCO3-30 AnGap-6*
___ 10:50PM BLOOD ALT-90* AST-76* AlkPhos-112 TotBili-0.2
___ 07:58AM BLOOD Triglyc-149 HDL-60 CHOL/HD-4.7 
LDLcalc-189* LDLmeas-216*
___ 07:58AM BLOOD C3-81* C4-9*
___ 07:58AM BLOOD HCV Ab-NEG

Imaging
---------------
CXR
IMPRESSION:
 
No evidence of acute cardiopulmonary process.

Discharge Labs
----------------

___ 07:58AM BLOOD WBC-6.4 RBC-4.16* Hgb-12.9* Hct-37.7* 
MCV-91 MCH-31.0 MCHC-34.2 RDW-12.3 RDWSD-40.8 Plt ___
___ 07:58AM BLOOD Glucose-88 UreaN-10 Creat-1.0 Na-141 
K-4.4 Cl-104 HCO3-27 AnGap-10
___ 07:58AM BLOOD ALT-95* AST-82* LD(LDH)-186 AlkPhos-95 
TotBili-0.2
___ 07:00AM URINE Blood-MOD* Nitrite-NEG Protein-300* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.5 Leuks-TR*
___ 07:00AM URINE RBC-52* WBC-8* Bacteri-FEW* Yeast-NONE 
Epi-1
___ 07:00AM URINE Hours-RANDOM Creat-298 Na-197 TotProt-930 
Prot/Cr-3.1*
___ 07:00AM URINE U-PEP-PND Osmolal-842
 
Brief Hospital Course:
Mr. ___ is a ___ male with a past medical 
history of nephrotic syndrome dating back to ___ of unclear 
etiology and elevated transaminases of unknown etiology sent in 
by PCP for hypoalbuminemia and edema c/f worsening nephrotic 
syndrome, as well as elevated transaminases of unknown etiology. 
We started the work up for his nephrotic syndrome and consulted 
nephrology who recommended a renal biopsy as an outpatient.

TRANSITIONAL ISSUES
===================
[] Please ensure follow up with his nephrologist at ___ for a 
renal biopsy to help determine the etiology of his nephrotic 
syndrome. The nephrology department will contact him to schedule 
the biopsy.
[] He was started on Torsemide 5 mg daily for his HTN.
[] Please follow up his BMP and LFTs to be obtained ___ to 
ensure normal renal function, electrolytes, and improvement in 
transaminitis.
[] Please follow up a Free T4 as his TSH was 7.0 on admission 
which was likely related to his underlying hypoalbuminemia.
[] Patient had many pending labs at discharge including ___, 
C3/C4, Spep, Upep, Hep B serologies and syphilis.

ACUTE ISSUES:
=============
#Nephrotic syndrome of unclear etiology
___ Edema
#Anasarca
Diagnosis of nephrotic syndrome s/p viral infection in ___ who 
was lost to follow up with no renal biopsy performed. He was 
admitted with low serum albumin and new ___ edema with CT C/A/P 
(___) demonstrating anasarca with no PE. Cr 1.0 on 
admission with baseline of ~0.9 in Atrius
records. Workup with a U/A showed proteinuria and rbc's. His 
lipid panel was notable for an elevated LDL. HIV, HCV and Hep A 
were all negative. There were many pending labs on discharge 
which included ___, C3/C4, Spep, Upep, Hep B serologies and 
syphilis. After discussion with both the renal team and patient, 
the decision was made for patient to be discharged with plan for 
follow-up for biopsy outpatient.

#Elevated transaminases
ALT 90 and AST 76 on admission, stable from discharge from OSH 
___. DDx includes elevated hepatocellular pattern LFTs in 
setting of alcohol use, infection, or autoimmune etiology. 
Patient wished to be discharged prior to further evaluation and 
with pending lab work.

#HTN
BP elevated to SBP 150s on admission suspected ___ underlying 
nephrotic syndrome. He was started on 5 mg of Torsemide daily 
per renal recommendations.

CHRONIC ISSUES:
===============
#Depression
Noted in PCP ___. Not on any medications.

CORE MEASURES
=============
#CODE: Full
#CONTACT: Next of Kin: ___
Relationship: MOTHER
Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Torsemide 5 mg PO DAILY 
RX *torsemide 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.Outpatient Lab Work
ICD-9 CODE: ___.9
Contact: ___ Phone ___ Fax ___
Labs: CMP, LFT, T4  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
------------
Nephrotic Syndrome
Elevated Transaminases
Hypertension

Secondary
--------------
Depression

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital to work up the increased 
swelling in your legs

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- While you were in the hospital we sent a number of tests to 
determine why your legs were swollen. We also had the kidney 
doctors ___ who determined you need a biopsy. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to follow up with your PCP and kidney doctors 
to determine when you will get your kidney biopsy. Additionally, 
please take your new blood pressure medication and check your 
labs in 1 week. Lastly, continue to follow up with your doctors 
at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___